US07576115B2
Synthesis of 5-[(2-{1-[5-(4-trifluoromethylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]-2-thiophenecarboxylic acid
To a suspension of methyl 5-[(2-{1-[5-(4-trifluoromethylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]-2-thiophenecarboxylate (56.2 mg, 0.12 mmol) in t-butanol (1.2 mL), 0.2 M sodium hydroxide aqueous solution (1.26 mL, 0.25 mmol) was added, and the mixture was stirred at room temperature for 4 hours. After completion of the stirring, 1 M hydrochloric acid (252 μL) was added, and the precipitated solid was filtered and washed with methanol to obtain 14.9 mg of the desired product as an orange solid (yield 27%).

reactant | methyl 5-[(2-{1-[5-(4-trifluoromethylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]-2-thiophenecarboxylate | 0.12 mmol, 56.2 mg | FC(C1=CC=C(C=C1)C1=C(C(=CS1)C(C)=NNC(=O)C1=CC=C(S1)C(=O)OC)O)(F)F | C20H15F3N2O4S2
reactant | sodium hydroxide | 0.25 mmol, 0.2 M, 1.26 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M, 252 μL | Cl | ClH
solvent | t-butanol | 1.2 mL | C(C)(C)(C)O | C4H10O
product | 5-[(2-{1-[5-(4-trifluoromethylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]-2-thiophenecarboxylic acid | 14.9 mg, yield 27% | FC(C1=CC=C(C=C1)C1=C(C(=CS1)C(C)=NNC(=O)C1=CC=C(S1)C(=O)O)O)(F)F | C19H13F3N2O4S2
